*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J151JX01
* Property : C = 1.50e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J151JX01 Port1 Port2
C01 Port1 N01 1.50e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 2.08e-10
R03 N02 N03 1.04e-01
C04 N03 N04 9.33e-09
R04 N03 N04 3.32e+01
C05 N04 N05 9.70e-10
L05 N04 N05 1.04e-11
R05 N04 N05 4.57e-01
C06 N05 N06 8.99e-11
L06 N05 N06 3.53e-11
R06 N05 N06 1.95e+00
C07 N06 N07 3.72e-11
L07 N06 N07 1.90e-11
R07 N06 N07 1.58e+00
C08 N07 Port2 1.07e-12
L08 N07 Port2 3.22e-10
R08 N07 Port2 1.62e+02
.ENDS GCM21A5C2J151JX01
